US09403801B2
Step 2) 5-chloro-N2-(5-cyclopropyl-1H-pyrazol-3-yl)-N4-(octahydrocyclopenta[c]pyrrol-5-yl)pyrimidine-2,4-diamine
To a solution of tert-butyl 5-((5-chloro-2-((5-cyclopropyl-1H-pyrazol-3-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate (560.3 mg, 1.22 mmol) in DCM (15 mL) was added a solution of HCl in EtOAc (15 mL, 60 mmol). The reaction mixture was stirred at rt for 1 h and concentrated in vacuo. The residue was dissolved in water (30 mL) and adjusted to pH=10 with a saturated Na2CO3 aqueous solution, then extracted with DCM (100 mL×3). The combined organic phases were washed with brine (100 mL), dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (MeOH/DCM (v/v)=1/5) to give the title compound as a pale yellow solid (0.31 g, 71%).

reactant | tert-butyl 5-((5-chloro-2-((5-cyclopropyl-1H-pyrazol-3-yl)amino)pyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole-2(1H)-carboxylate | 1.22 mmol, 560.3 mg | ClC=1C(=NC(=NC1)NC1=NNC(=C1)C1CC1)NC1CC2C(CN(C2)C(=O)OC(C)(C)C)C1 | C22H30ClN7O2
reactant | HCl | Cl | ClH
reactant | EtOAc | 60 mmol, 15 mL | CCOC(=O)C | C4H8O2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-N2-(5-cyclopropyl-1H-pyrazol-3-yl)-N4-(octahydrocyclopenta[c]pyrrol-5-yl)pyrimidine-2,4-diamine | 0.31 g, 71% | ClC=1C(=NC(=NC1)NC1=NNC(=C1)C1CC1)NC1CC2C(CNC2)C1 | C17H22ClN7
